US06777418B2
To a solution of 7.21 g (23.1 mmol) of 3-(2-trimethylsilyl-ethynyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde in 150 mL of methanol was added 6.38 g (46.2 mmol) of potassium carbonate. After 1 hour, the reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The product was purified by flash chromatography on silica gel (3% ethyl acetate/hexane) to afford 4.04 g (73%) of 3-ethynyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde (m.p.=94.0-94.6° C.).

reactant | 3-(2-trimethylsilyl-ethynyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 23.1 mmol, 7.21 g | C[Si](C#CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O)(C)C | C20H28OSi
reactant | potassium carbonate | 46.2 mmol, 6.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 3-ethynyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 4.04 g, 73% | C(#C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C17H20O
